US06096743
By using 420 mg of N-(5-fluoro-4-methoxy-2-nitrophenyl)glycine ethyl ester, 420 mg of imidazole and 2.5 ml of DMF, 200 mg (41%) of N-[5-(1H-imidazol-1-yl)-4-methoxy-2-nitrophenyl]glycine ethyl ester was obtained.

reactant | N-(5-fluoro-4-methoxy-2-nitrophenyl)glycine ethyl ester | 420 mg | C(C)OC(CNC1=C(C=C(C(=C1)F)OC)[N+](=O)[O-])=O | C11H13FN2O5
reactant | imidazole | 420 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | N-[5-(1H-imidazol-1-yl)-4-methoxy-2-nitrophenyl]glycine ethyl ester | 200 mg, 41% | C(C)OC(CNC1=C(C=C(C(=C1)N1C=NC=C1)OC)[N+](=O)[O-])=O | C14H16N4O5
